US05712300
Preparation of tert-Butyl α-(2-Aminoethyl)-2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetate
A solution of tert-butyl α-(2-azidoethyl)-2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetate (2.12 g, 5.14 mmol) and triphenylphosphine (1.48 g, 5.65 mmol) in THF (15 mL) is stirred under N2 for 7 hours. Water (1 mL) is added and the solution stirred overnight at room temperature under N2. The solution is concentrated and purified by silica gel chromatography (75 g SG; EtOAc, 20% MeOH/EtOAc) to provide 1.94 g (97%) of the title compound as a yellow oil:

reactant | tert-butyl α-(2-azidoethyl)-2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetate | 5.14 mmol, 2.12 g | N(=[N+]=[N-])CCC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)C(=C)C | C23H32N4O3
reactant | triphenylphosphine | 5.65 mmol, 1.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Water | 1 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-Butyl α-(2-Aminoethyl)-2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetate | 1.94 g, 97% | NCCC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)C(=C)C | C23H34N2O3
